US05696112
2,4-Dichloro-N-[4-[(2-chloro-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]phenyl]benzamide
To a cooled (ice bath) solution of 0.245 g 15 (0.8 mmol) of 2-chloro-4-(4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine and 167 μl (1.2 mmol) of triethylamine in 5 ml of dichloromethane is added 140 μl (1 mmol) of 2,4-dichlorobenzoyl chloride. The solution is stirred under argon at room temperature overnight and diluted with 60 ml of dichloromethane. The mixture is washed with 20 ml each of 2N-citric acid, H2O, 1M NaHCO3, brine and dried (Na2SO4). The solvent is removed and the residue crystallized from ethyl acetate-hexane to give 0.315 g of white crystals, m.p. 187°-189° C.

reactant | 2-chloro-4-(4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | ClC1=CC=2N(CCCCC2S1)C(C1=CC=C(C=C1)N)=O | C15H15ClN2OS
reactant | triethylamine | 1.2 mmol, 167 μl | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzoyl chloride | 1 mmol, 140 μl | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2,4-Dichloro-N-[4-[(2-chloro-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]phenyl]benzamide | 0.315 g | ClC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2C3=C(CCCC2)SC(=C3)Cl)C=CC(=C1)Cl | C22H17Cl3N2O2S
